US06962926B2
6-Hydroxy-1,3-dimethylpyrazolo[5,4-b]pyridine-5-carbonitrile (2.18 g) was dissolved in phenylphosphonic dichloride, and stirred at 150° C. for 17 hours. The solution was allowed to cool to room temperature and poured into water, then extracted with ethyl acetate. The extract was washed with saturated NaHCO3 solution and dried over Na2SO4. Evaporation of the solvent gave 6-chloro-1,3-dimethylpyrazolo[5,4-b]pyridine-5-carbonitrile as a white solid.

reactant | 6-Hydroxy-1,3-dimethylpyrazolo[5,4-b]pyridine-5-carbonitrile | 2.18 g | OC1=C(C=C2C(=N1)N(N=C2C)C)C#N | C9H8N4O
reactant | water | O | H2O
reactant | phenylphosphonic dichloride | C1(=CC=CC=C1)P(=O)(Cl)Cl | C6H5Cl2OP
product | 6-chloro-1,3-dimethylpyrazolo[5,4-b]pyridine-5-carbonitrile | ClC1=C(C=C2C(=N1)N(N=C2C)C)C#N | C9H7ClN4
